US06265575B1
Part D. 4-Fluorophenyl 5-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone
The title compound was prepared by essentially following the procedure detailed in Example 1, Part C, from 5-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (Part C) and 4-fluorobenzoyl chloride. The crude product was purified by flash chromatography (silica gel, 55:42:3 THF-hexanes-Et3N) to afford 2.11 g (4.44 mmol, 71%) of a yellow semi-solid.

reactant | 5-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | COC1=CC2=C(SC(=C2)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | C21H23NO2S
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-Fluorophenyl 5-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone | COC1=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)F)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | C28H26FNO3S
